US05142031
4-Methoxy-phenylhydrazine hydrochloride (5.6 g, 32 mmol; product of Aldrich Chem. Co.), sodium acetate trihydrate (5.45 g, 40 mmol; product of Kishida Chemicals) and ethyl acetoacetate (4.16 g, 32 mmol; product of Kishida Chemicals) were dissolved in 40 ml ethanol, and the solution was heated under reflux for two hours to complete the reaction. After cooling, the solvent was distilled off from the reaction mixture under reduced pressure, 40 ml ethanol was added to the residue, and the insoluble matters were removed by filtration. The filtrate was concentrated to dryness under reduced pressure, the residue was dissolved in a small volume of a solvent mixture of benzene and ethyl acetate (4:1), and the solution was subjected to silica gel chromatography (150 g of Silica Gel 60; product of Merck) Elution was performed by using a solvent mixture of benzene and ethyl acetate (4:1), the eluate was concentrated to dryness under reduced pressure, and the residue was recrystallized with methanol, giving 2.80 g (yield: 42.9%) of PMPMP. Its structure was confirmed by 1H NMR and 13C NMR. The spectra thus obtained are shown in Table 1 below.

reactant | 4-Methoxy-phenylhydrazine hydrochloride | 32 mmol, 5.6 g | Cl.COC1=CC=C(C=C1)NN
reactant | sodium acetate trihydrate | 40 mmol, 5.45 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ethyl acetoacetate | 32 mmol, 4.16 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | PMPMP | 2.80 g, yield: 42.9% | CC1=NN(C(=O)C1)C2=CC=C(C=C2)OC | C11H12N2O2
